US06875765B2
To a −10° C. (acetone/ice/sodium chloride) CH2Cl2 solution of 4-fluoro-2-(2-naphthalen-1-yl-ethoxy)-phenylamine (15.0 g, 53.30 mmol) was added boron trifluoride diethyl etherate (19.7 mL, 160.0 mmol) dropwise. Tert-Butyl nitrite (8.30 mL, 69.3 mmol) was then slowly added dropwise. The reaction mixture was allowed to stirred at −10° C. for 30 min. Chilled pentane (150 mL) was then added to precipitate the diazo-salt from CH2Cl2. The diazo-salt was then dissolved in dioxane:acetonitrile (3:1, 150 mL) kept at 0° C. In a three-necked flask to a solution of dioxane (150 mL) and acetic acid (150 mL) at −10° C. was added copper (I) chloride (1.60 g, 16.0 mmol) and LiCl (33.0 g, 319 mmol). Sulfur dioxide (˜100 mL) was then condensed into this solution using a −78° C. cold finger. The above diazo-salt solution was then poured into this solution. The reaction was kept at 0° C. for 2 h and then placed into a preheated oil bath at 65° C. for 12 h. The reaction was then cooled and poured into EtOAc (500 mL) and washed with water, and 1 N sodium hydroxide. The organic layer was then dried (MgSO4), filtered and concentrated under reduced pressure to yield 4-fluoro-2-(2-naphthalen-1-yl-ethoxy)-benzenesulfonyl chloride as a yellowish foam (19.90 g, 98%). 1H NMR (CDCl3, 400 MHz) 8.05 (d, 1H), 7.90 (d, 1H), 7.87 (d, 1H), 7.78 (d, 1H), 7.60-6.42 (m, 4H), 6.78-6.64 (m, 2H), 4.21 (t, 2H), 3.79 (t, 2H).

reactant | 4-fluoro-2-(2-naphthalen-1-yl-ethoxy)-phenylamine | 53.30 mmol, 15.0 g | FC1=CC(=C(C=C1)N)OCCC1=CC=CC2=CC=CC=C12 | C18H16FNO
reactant | boron trifluoride diethyl etherate | 160.0 mmol, 19.7 mL | B(F)(F)F.CCOCC
reactant | Tert-Butyl nitrite | 69.3 mmol, 8.30 mL | N(=O)OC(C)(C)C | C4H9NO2
reactant | LiCl | 319 mmol, 33.0 g | [Li+].[Cl-]
reactant | Sulfur dioxide | ˜100 mL | S(=O)=O | O2S
catalyst | copper (I) chloride | 16.0 mmol, 1.60 g | [Cu]Cl
solvent | EtOAc | 500 mL | CCOC(=O)C | C4H8O2
solvent | acetic acid | 150 mL | C(C)(=O)O | C2H4O2
solvent | dioxane | 150 mL | O1CCOCC1 | C4H8O2
solvent | pentane | 150 mL | CCCCC | C5H12
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-fluoro-2-(2-naphthalen-1-yl-ethoxy)-benzenesulfonyl chloride | FC1=CC(=C(C=C1)S(=O)(=O)Cl)OCCC1=CC=CC2=CC=CC=C12 | C18H14ClFO3S
